US08106193B2
7.1 1,3-di(5-methyl-2-pyridyl)benzene
A mixture of 1,3-dibromobenzene (1.88 g, 8 mmol), 5-methyl-2-tri-n-butylstannylpyridine (7.18 g, 18.8 mmol), lithium chloride (28 g, 0.67 mol), bis(triphenylphosphine)palladium dichloride (360 mg, 0.5 mmol) and toluene (150 cm3) was degassed by bubbling argon through the mixture for 15 minutes. The reaction mixture was heated under reflux for 24 h. The mixture was then allowed to cool to room temperature and was filtered through small pad of silica gel, which was then washed with ethyl acetate. The filtrate was evaporated to dryness and the product was purified by column chromatography (silica gel, hexane/ethyl acetate, 1/1) to give the title product as a colourless solid. Yield 728 mg, 35%. δH (270 MHz; CDCl3): 2.36 (6H, s, 2×CH3), 7.54 (1H, t, J 8.0, 5-H), 7.56 (2H, dd, J 8.2 and 2.1, 2×py 4-H), 7.72 (2H, d, J 8.2, 2×py 3-H), 7.99 (2H, dd, J 8.0 and 1.8, 4-H, 6-H), 8.52 (2H, d, J 2.1, 2×py 6-H), 8.54 (1H, t, J 1.8, 2-H).

reactant | 1,3-dibromobenzene | 8 mmol, 1.88 g | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | 5-methyl-2-tri-n-butylstannylpyridine | 18.8 mmol, 7.18 g | CC=1C=CC(=NC1)[Sn](CCCC)(CCCC)CCCC
reactant | lithium chloride | 0.67 mol, 28 g | [Cl-].[Li+]
catalyst | bis(triphenylphosphine)palladium dichloride | 0.5 mmol, 360 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 150 cm3 | C1(=CC=CC=C1)C | C7H8
product | 1,3-di(5-methyl-2-pyridyl)benzene | CC=1C=CC(=NC1)C1=CC(=CC=C1)C1=NC=C(C=C1)C | C18H16N2
